US07008944B2
2-{[4-(5-Fluoro-1H-indol-3-yl)-3,6-dihydro-1(2H)-pyridinyl]methyl}-2,3-dihydro[1,4]dioxino[2,3-f]quinoxaline
To a solution of (2R)-2,3-dihydro[1,4]dioxino[2,3-f]quinoxalin-2-ylmethyl 4-methylbenzenesulfonate (0.462 g, 1.241 mmole) in methyl sulfoxide (25 mL) was added 5-fluoro-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole (1.073 g, 4.962 mmole) and the reaction mixture was heated to 80° C. for 12 hours. The reaction mixture was allowed to cool to room temperature and was diluted with ethyl acetate (250 mL), washed with water (2×100 mL), aqueous sodium chloride (100 mL), dried (magnesium sulfate) and the solvent was removed in vacuo to give a crude solid. Purification by flash column chromatography (silica, methanol:ethyl acetate 1:9) followed by recrystallization from ethanol provided 0.382 g (74%) of the (S)-enantiomer of the title compound as a tan solid. Rf=0.37 (silica, methanol:ethyl acetate 1:9); mp>200° C. dec.

reactant | (2R)-2,3-dihydro[1,4]dioxino[2,3-f]quinoxalin-2-ylmethyl 4-methylbenzenesulfonate | 1.241 mmole, 0.462 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3N=CC=NC3=CC2)O1 | C18H16N2O5S
reactant | 5-fluoro-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 4.962 mmole, 1.073 g | FC=1C=C2C(=CNC2=CC1)C=1CCNCC1 | C13H13FN2
solvent | methyl sulfoxide | 25 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 2-{[4-(5-Fluoro-1H-indol-3-yl)-3,6-dihydro-1(2H)-pyridinyl]methyl}-2,3-dihydro[1,4]dioxino[2,3-f]quinoxaline | FC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)CC1COC=2C(=C3N=CC=NC3=CC2)O1 | C24H21FN4O2
